US07888364B2
75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 4-((tert-butoxycarbonylamino)methyl)benzoic acid via Procedure G to yield tert-butyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzylcarbamate. Tert-butyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzylcarbamate was subsequently treated with 4N HCl in Dioxane to remove the Boc protecting group and form the HCl salt of 4-(aminomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide. 50 mg of the crude HCl salt of 4-(aminomethyl)-N-(4-chloro-3-(pyridin-2-yl)phenyl)benzamide was coupled to picolinic acid via Procedure G. The crude product was purified by reverse phase HPLC to yield N-(4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzyl)picolinamide. MS (Q1) 443.3 (M)+.

reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-((tert-butoxycarbonylamino)methyl)benzoic acid | C(C)(C)(C)OC(=O)NCC1=CC=C(C(=O)O)C=C1 | C13H17NO4
product | tert-butyl 4-(4-chloro-3-(pyridin-2-yl)phenylcarbamoyl)benzylcarbamate | ClC1=C(C=C(C=C1)NC(=O)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1)C1=NC=CC=C1 | C24H24ClN3O3
